data/pmechdb/original/mc_train_fold0/raw/train.txt
CCOC(=O)C[C:20]1(NNC(=S)[N-:10]1)[OH:21].CCO.[Na+]>>CCOC(=O)C[C:20]1=[N:10]C(=S)NN1.[OH-:21].CCO.[Na+] 10=20;20,21=21
[H:10][C:11](C#N)(C1=C(C=CC=C1)[C:20](=[O:21])CC)[O-:12].[Na+]>>[H:10][C:20](CC)(C1=C(C=CC=C1)[C:11](=[O:12])C#N)[O-:21].[Na+] 10,11=10,20;20,21=21;12=11
[H:20][OH:21].CCCCCCN1CCC23C=CCCC2(C1CC4=C3C(=C(C=C4)OC)[O-:10])O.N#N.[K+]>>[H:20][O:10]C1=C(C=CC2=C1C34CCN(C(C2)C3(CCC=C4)O)CCCCCC)OC.[OH-:21].N#N.[K+] 10=20;20,21=21
CCC(C)[OH:10].C(F)(F)(F)S(=O)(=O)O[S:20](=O)(=[O:21])C(F)(F)F>>CCC(C)[OH+:10][S:20](=O)(C(F)(F)F)([O-:21])OS(=O)(=O)C(F)(F)F 10=20;20,21=21
CO[C:20]([OH2+:21])(O)[OH:10]>>CO[C:20](=[OH+:10])O.[OH2:21] 10=20;20,21=21
[H:20][OH:21].COC1=C(C2=C(CC3C4(C2(CCN3CC5CCC5)C=CCC4)O)C=C1)[O-:10].N#N.[K+]>>[H:20][O:10]C1=C(C=CC2=C1C34CCN(C(C2)C3(CCC=C4)O)CC5CCC5)OC.[OH-:21].N#N.[K+] 10=20;20,21=21
CC1(OC(C(O1)C(C(OC(=O)C(F)(F)F)SC)OCC2=CC=CC=C2)C(C[S+](C)[O-:10])OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)O[C:20](=[O:21])C(F)(F)F.C(=O)(C(F)(F)F)O>>CC1(OC(C(O1)C(C(OC(=O)C(F)(F)F)SC)OCC2=CC=CC=C2)C(C[S+](C)[O:10][C:20](C(F)(F)F)([O-:21])OC(=O)C(F)(F)F)OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)O 10=20;20,21=21
C[Si-](C)(C)(C[C:11]#[CH:10])F.[CH2:20]=[O:21]>>C[Si-](C)(C)(C[C+:11]=[CH:10][CH2:20][O-:21])F 10,11=10,20;20,21=21
CC[C:20](N1C(COC1=O)CC2=CC=CC=C2)([O-:10])[Cl:21].[Li+].CCCC>>CC[C:20](=[O:10])N1C(COC1=O)CC2=CC=CC=C2.[Cl-:21].[Li+].CCCC 10=20;20,21=21
CC(=O)O[C:20](C)([O-:10])[Cl:21]>>CC(=O)O[C:20](=[O:10])C.[Cl-:21] 10=20;20,21=21
C[C:20](=[O+:21]CC[OH:10])C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CO>>C[C:20]1([OH+:10]CC[O:21]1)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CO 10=20;20,21=21
C[CH:20]([NH2:10])[OH+:21]C>>C[CH:20]=[NH2+:10].C[OH:21] 10=20;20,21=21
CCC1C[C:20](=[O:21])C2=CC=CC=C12.[NH2:10]O.O>>CCC1C[C:20](C2=CC=CC=C12)([NH2+:10]O)[O-:21].O 10=20;20,21=21
[B-:10](O)([O:11]C1=C2C3=C(CC4C5(C3(CCN4C6=CC=CC=C6)C(O2)C(=O)CC5)O)C=C1)(Br)Br.CBr.O>>[B:10](O)(Br)Br.C1CC2(C3CC4=C5C2(CCN3C6=CC=CC=C6)C(C1=O)OC5=C(C=C4)[O-:11])O.CBr.O 10,11=11
C[CH:20]=[O+:21]C.[NH3:10]>>C[CH:20]([NH3+:10])[O:21]C 10=20;20,21=21
[H:20][OH2+:21].C#CC(C1=CC=C(C=C1)OCCCCC2=CNC=N2)[OH:10].CCO.C1=CC=C(C=C1)[C+](C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][OH+:10]C(C#C)C1=CC=C(C=C1)OCCCCC2=CNC=N2.[OH2:21].CCO.C1=CC=C(C=C1)[C+](C2=CC=CC=C2)C3=CC=CC=C3 10=20;20,21=21
[H:20][C:21]1(C(CC=C[C:22]1=[O:23])C)C(=O)OCC[Si](C)(C)C.[H:10][Na:11]>>CC1CC=C[C:22](=[C:21]1C(=O)OCC[Si](C)(C)C)[O-:23].[H:10][H:20].[Na+:11] 10,11=10,20;22,23=23;20,21=21,22
C[NH:10][CH2:20][Br:21]>>C[NH+:10]=[CH2:20].[Br-:21] 10=20;20,21=21
C1CO[C:20](O1)([NH2:10])[OH2+:21]>>C1CO[C:20](=[NH2+:10])O1.[OH2:21] 10=20;20,21=21
[H:20][OH2+:21].C1CCC2=[N:10]CCCC2C1>>[H:20][N+:10]1=C2CCCCC2CCC1.[OH2:21] 10=20;20,21=21
CC12CCC3C(C1CCC2=O)CCC45C3(C4)CC[C:10]67C5[S+:11]6CCS7.CC(=O)[O-].CS(=O)(=O)[O-]>>CC12CCC3C(C1CCC2=O)CCC45C3(C4)CC[C+:10]6C5[S:11]CCS6.CC(=O)[O-].CS(=O)(=O)[O-] 10,11=11
O[P:10](O)O.[Br:20][Br:21]>>O[P+:10](O)(O)[Br:20].[Br-:21] 10=20;20,21=21
[H:20][CH:21](C)[CH+:22]O.[OH2:10]>>[H:20][OH2+:10].C[CH:21]=[CH:22]O 10=20;20,21=21,22
CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC(C)CCCCC(C(C(=O)[O-])OC1=CC=CC=C1)[OH:10]>>CCOC(=O)NN(C(=O)OCC)[P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH+:10]C(CCCCC(C)C)C(C(=O)[O-])OC4=CC=CC=C4 10=20,
CCC(=O)C(CC1CCCCC1)(C(=O)[O:21][C:20](CC)([O-:10])OC(=O)CC)NC(=O)CC.C1=CC=NC=C1>>CCC(=O)C(CC1CCCCC1)(C(=O)[O-:21])NC(=O)CC.CC[C:20](=[O:10])OC(=O)CC.C1=CC=NC=C1 10=20;20,21=21
CN[CH:20]=[N+:21](C)C.C[OH:10].[Cl-]>>CN[CH:20]([N:21](C)C)[OH+:10]C.[Cl-] 10=20;20,21=21
CCCCCCN1CCC23[CH:20]4[CH-:10]CCC2(C1CC5=C3C(=C(C=C5)OC)[O:21]4)O.N#N.O.[K+]>>CCCCCCN1CCC23[CH:20]=[CH:10]CCC2(C1CC4=C3C(=C(C=C4)OC)[O-:21])O.N#N.O.[K+] 10=20;20,21=21
C1CCC(CC1)[P:10](C2CCCCC2)(C3CCCCC3)(O)[F:11].[B-](F)(F)(F)F.C1C[N+]2(CC[NH+]1CC2)CCl>>C1CCC(CC1)[P+:10](C2CCCCC2)(C3CCCCC3)O.[F-:11].[B-](F)(F)(F)F.C1C[N+]2(CC[NH+]1CC2)CCl 10,11=11
C[NH+:21]=[CH:20]OC.C[OH:10].[Cl-]>>C[NH:21][CH:20]([OH+:10]C)OC.[Cl-] 10=20;20,21=21
[B:20]([O+](C)C1=C(C=CC(=C1)CCC)C)(Br)Br.[Br-:10]>>[B-:20]([O+](C)C1=C(C=CC(=C1)CCC)C)(Br)(Br)[Br:10] 10=20,
[B-]([O:10]CCC[O+:21]=[CH2:20])(F)(F)F>>[B-]([O+:10]1CCC[O:21][CH2:20]1)(F)(F)F 10=20;20,21=21
[H:20][C:21](C)([C:22](=[O:23])C)C(=O)OC.[H:10][Na:11]>>C[C:21](=[C:22](C)[O-:23])C(=O)OC.[H:10][H:20].[Na+:11] 10,11=10,20;22,23=23;20,21=21,22
[H:20][O:21]C(=CC(=O)N(C)C)CC1=CC=CC=C1.[OH-:10]>>[H:20][OH:10].CN(C)C(=O)C=C(CC1=CC=CC=C1)[O-:21] 10=20;20,21=21
CC(=O)O[Si:20](C)(C)C.CS(=O)(=O)[O-:10]>>CC(=O)O[Si-:20](C)(C)(C)[O:10]S(=O)(=O)C 10=20,
[B-:10](C1=C(N=CC=C1)Cl)(OC(C)C)(OC(C)C)[O:11]C(C)C.[Li+].[OH-].[Na+]>>[B:10](C1=C(N=CC=C1)Cl)(OC(C)C)OC(C)C.CC(C)[O-:11].[Li+].[OH-].[Na+] 10,11=11
C[O+:21]=[CH2:20].C1=CC(=CC=C1CC(C(=O)O)[NH2:10])O.CO.O.[Cl-]>>C[O:21][CH2:20][NH2+:10]C(CC1=CC=C(C=C1)O)C(=O)O.CO.O.[Cl-] 10=20;20,21=21
C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.[Cl:20][Cl:21]>>C1=CC=C(C=C1)[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)[Cl:20].[Cl-:21] 10=20;20,21=21
